US07345178B2
Preparation of 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyrimidine
2-Bromo-2′-nitroacetophenone (5.0 g, 20.4 mmol) and 2-aminopyrimidine (1.94 g, 20.4 mmol) were dissolved in acetone (50 ml) and brought to reflux. After 60 minutes a light white precipitate developed. Refluxing was continued for 5.5 hours and cooled to room temperature. The volume was reduced 1 by evaporation and the intermediate solids were collected by filtration, washed with acetone (20 ml) and air dried (2.84 g of intermediate). A second crop was collected by concentration of the combined mother liquors, and refluxing the residue in fresh acetone (20 ml) for 1.5 hours. Upon cooling, and reducing the volume by 1 by evaporation, 3.11 g of solids were collected. The combined solid intermediate (5.95 g) was dissolved in MeOH (70 ml) with 5 drops of conc. HBr and refluxed for 2 hours. After cooling the volume was reduced by ½, water (40 ml) was added solution was made basic (pH=10) with 1N NaOH. Roto-evaporation to remove methanol resulted in the product crystallizing. The product was filtered, washed with water and air dried to obtain 5.03g of the desired product. (MS, M++H=241.0)

reactant | 2-Bromo-2′-nitroacetophenone | 20.4 mmol, 5.0 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 2-aminopyrimidine | 20.4 mmol, 1.94 g | NC1=NC=CC=N1 | C4H5N3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(2-Nitro-phenyl)-imidazo[1,2-a]pyrimidine | 5.03g | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2N(C=CC=N2)C1 | C12H8N4O2
